US05194442
7-Chloro-trans-5-(2-oxo-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol
5 ml (5 mmol) of lithium bis-(trimethylsilyl)-amide (1M solution in THF) are added dropwise with stirring to 1.40 g (5 mmol) of trans-5-bromo-7-chloro-4-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin at 0° C. under argon. After stirring for 2 hours, 0.43 g (5 mmol) of 2-pyrrolidinone and subsequently a further 5 ml of lithium bis-(trimethylsilyl)-amide are added, and the mixture is heated at 110° C. for several hours (TLC check). The mixture is poured onto ice-water and extracted several times with ethyl acetate. The combined ethyl acetate extracts are washed with water and saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated in vacuo. The residue is triturated with hot methanol/ethyl acetate and filtered off with suction. Crystals of melting point 186°-188° C. are obtained.

reactant | lithium bis-(trimethylsilyl)-amide | 5 mmol, 1M, 5 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | trans-5-bromo-7-chloro-4-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin | 5 mmol, 1.40 g | Br[C@H]1[C@@H](CCOC2=C1C=C(C=C2)Cl)O | C10H10BrClO2
reactant | 2-pyrrolidinone | 5 mmol, 0.43 g | N1C(CCC1)=O | C4H7NO
reactant | lithium bis-(trimethylsilyl)-amide | 5 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
product | 7-Chloro-trans-5-(2-oxo-pyrrolidin-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol | ClC=1C=CC2=C([C@H]([C@@H](CCO2)O)N2C(CCC2)=O)C1 | C14H16ClNO3
